US06884814B2
Step b) 1-Bromo-2,4-dimethoxy-3-methylbenzene.
A solution of 1,3-dimethoxy-2-methylbenzene (1.86 g, 12.2 mmol) and N-bromo-succinimide (2.17 g, 12.2 mmol) in acetonitrile (30 mL) was stirred at 60° C. for 20 h. After most of the solvent was removed in vacuo, extraction in ethyl ether (2×75 mL) with water (2×50 mL) and flash chromatography with silica gel (gradient to 5% ether/hexanes) provided the title compound as a colorless liquid (2.51 g, 89% yield): 1H NMR (300 MHz, CDCl3) δ 2.19 (s, 3H), 3.78 (s, 3H), 3.81 (s, 3H), 6.54 (d, 1H, J=8.8 Hz), 7.32 (d, 1H, J=8.8 Hz).

reactant | 1,3-dimethoxy-2-methylbenzene | 12.2 mmol, 1.86 g | COC1=C(C(=CC=C1)OC)C | C9H12O2
reactant | N-bromo-succinimide | 12.2 mmol, 2.17 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | 1-Bromo-2,4-dimethoxy-3-methylbenzene | 2.51 g, 89% yield | BrC1=C(C(=C(C=C1)OC)C)OC | C9H11BrO2
